US06511980B2
4-(2-(3-aminophenoxy)ethyl)morpholine
By the method of examples 2 and 3, 4-(2-chloroethyl)morpholine hydrochloride and 3-nitrophenol were converted into the title compound.

reactant | 4-(2-chloroethyl)morpholine hydrochloride | Cl.ClCCN1CCOCC1
reactant | 3-nitrophenol | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
product | 4-(2-(3-aminophenoxy)ethyl)morpholine | NC=1C=C(OCCN2CCOCC2)C=CC1 | C12H18N2O2
